US07893267B2
1.4 g (6.3 mmol) of 2-nitro-3,4,5-trifluoro-benzoic acid was treated with ammonium hydroxide to produce 3-amino-4,5-difluoro-2-nitro-benzoic acid. LCMS: 219 (M+1)+.

reactant | 2-nitro-3,4,5-trifluoro-benzoic acid | 6.3 mmol, 1.4 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C(=C1F)F)F | C7H2F3NO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-amino-4,5-difluoro-2-nitro-benzoic acid | NC=1C(=C(C(=O)O)C=C(C1F)F)[N+](=O)[O-] | C7H4F2N2O4
